US06875765B2
A solution of 1-[2-(5-fluoro-2-nitro-phenoxy)-ethyl]-naphthalene (24.63 g, 79.10 mmol) in THF (200 mL) was shaken with Raney nickel (3.0 g) under H2 (55 psi) for 2 h using Parr apparatus. The reaction mixture was filtered through celite and concentrated. 4-Fluoro-2-(2-naphthalen-1-yl-ethoxy)-phenylamine (21.0 g, 94%) was obtained as a light-yellow solid. 1H NMR (CDCl3, 400 MHz) 8.12 (d, 1H), 7.84 (d, 1H), 7.77 (d, 1H), 7.57-7.42 (m, 4H), 6.60-6.45 (m, 3H), 4.31 (t, 2H), 3.59 (t, 2H).

reactant | 1-[2-(5-fluoro-2-nitro-phenoxy)-ethyl]-naphthalene | 79.10 mmol, 24.63 g | FC=1C=CC(=C(OCCC2=CC=CC3=CC=CC=C23)C1)[N+](=O)[O-] | C18H14FNO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
product | 4-Fluoro-2-(2-naphthalen-1-yl-ethoxy)-phenylamine | 21.0 g, 94% | FC1=CC(=C(C=C1)N)OCCC1=CC=CC2=CC=CC=C12 | C18H16FNO
